US08802678B2
A mixture of 11.6 g (52.66 mmol) of 4-(2-hydroxyethyl)cyclohexanone mesylate, of 13.72 g (55.27 mmol) of 1-(2-fluoro-5-trifluoromethylphenyl)piperazine and 8.37 g (60.65 mmol) of potassium carbonate in 220 mL of acetonitrile is refluxed overnight, then cooled back to room temperature. Water (80 mL) is added. Organics are extracted with ethyl acetate (100 mL). The organic phase is washed with water (20 mL), dried over magnesium sulfate and concentrated under reduced pressure to give a crude product. Purification by column chromatography over 320 g of silica gel (eluant dichloromethane/methanol 98/2 to 96/4) yields 15.86 g of 4-(2-fluoro-5-trifluoromethylphenyl)-1-[2-(4-oxocyclohexyl)ethyl]piperazine melting at 75-76° C.

reactant | 4-(2-hydroxyethyl)cyclohexanone mesylate | 52.66 mmol, 11.6 g | S(C)(=O)(=O)O.OCCC1CCC(CC1)=O
reactant | 1-(2-fluoro-5-trifluoromethylphenyl)piperazine | 55.27 mmol, 13.72 g | FC1=C(C=C(C=C1)C(F)(F)F)N1CCNCC1 | C11H12F4N2
reactant | potassium carbonate | 60.65 mmol, 8.37 g | C([O-])([O-])=O.[K+].[K+]
reactant | Water | 80 mL | O | H2O
solvent | acetonitrile | 220 mL | C(C)#N | C2H3N
product | 4-(2-fluoro-5-trifluoromethylphenyl)-1-[2-(4-oxocyclohexyl)ethyl]piperazine | 15.86 g | FC1=C(C=C(C=C1)C(F)(F)F)N1CCN(CC1)CCC1CCC(CC1)=O | C19H24F4N2O
